US08053438B2
To a vial with tert-butyl 3-(3-chloropyrazin-2-yl)azetidine-1-carboxylate (100 mg, 0.371 mmol), (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone (265 mg, 1.112 mmol) and cesium carbonate (362 mg, 1.112 mmol) under N2 is added DMSO (1.0 mL). The reaction is heated to 120° C. in an oil bath 1 h. The reaction was cooled to rt, added to H2O (5 mL), and extracted with Teac (3×5 mL). The combined organic layers were dried (MgSO4) and concentrated to give tert-butyl 3-(3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazin-2-yl)azetidine-1-carboxylate (175 mg) as a yellow oil which was carried on to the next step without purification.

reactant | tert-butyl 3-(3-chloropyrazin-2-yl)azetidine-1-carboxylate | 0.371 mmol, 100 mg | ClC=1C(=NC=CN1)C1CN(C1)C(=O)OC(C)(C)C | C12H16ClN3O2
reactant | (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone | 1.112 mmol, 265 mg | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)O | C14H10N2O2
reactant | cesium carbonate | 1.112 mmol, 362 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 1.0 mL | CS(=O)C | C2H6OS
solvent | H2O | 5 mL | O | H2O
product | tert-butyl 3-(3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazin-2-yl)azetidine-1-carboxylate | 175 mg | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(OC=1C(=NC=CN1)C1CN(C1)C(=O)OC(C)(C)C)C=C2 | C26H25N5O4
